US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate (58 mg) was reacted with iodomethyl pivalate (51 mg), followed by purifying the reaction product in the same manner as in Example 2, yielding the titled compound (45 mg; 66%) as pale yellow powder.

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate | 58 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OC(OC2)(C)C)C(=S)[O-])C1=O)=N/OC.[Na+]
reactant | iodomethyl pivalate | 51 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxolan-4-yl)methylthio-3-cephem-4-carboxylate | 45 mg, 66% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OC(OC2)(C)C)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C25H33N5O8S3
